US04556670
Spiro[imidazolidine-4,1'-indan]2,5-dione, (C.A. reg. no. 6252-98-8) (6.06 g, 30 mmol) was combined with 7.95 ml (30 mmol) bis(trimethylsilyl)trifluoroacetamide and 4.8 g (30 mmol) bromine in 50 ml chloroform and heated to reflux. Decolorization occurred during the 18 hour reaction. The reaction mixture was cooled to 25° C. and after 45 minutes stirring a solid which had crystallized was collected by filtration to give 2.45 g (29%) of crude 3'-bromo-spiro[imidazolidine-4,1'-indan]2,5-dione. The chloroform mother liquors deposited an additional 2.18 g (26% yield), mp 58°-65° C. Two grams (7.1 mmol) of material, mp 58°-65° C., was combined with 25 ml water to give a slurry. Following stirring for 22 hours the resultant solid was collected by filtration and dried to give 0.52 g (33% yield) of the title compound: mp 260°-263° C.

reactant | Spiro[imidazolidine-4,1'-indan]2,5-dione | C12(CCC3=CC=CC=C13)NC(NC2=O)=O | C11H10N2O2
reactant | bis(trimethylsilyl)trifluoroacetamide | 30 mmol, 7.95 ml | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | bromine | 30 mmol, 4.8 g | BrBr | Br2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3'-bromo-spiro[imidazolidine-4,1'-indan]2,5-dione | 2.45 g, 29% | BrC1CC2(C3=CC=CC=C13)NC(NC2=O)=O | C11H9BrN2O2
